US08729105B2
Preparation of (S)-5-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)pyridazine-3-carboxamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chloro-phenyl)-6-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridazine-3-carboxylic acid (example AG) and 3-methoxy-5-isoxazole-methanamine hydrochloride as starting materials, 457.1 (M+H)+.

reactant | 5-(4-chloro-phenyl)-6-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-pyridazine-3-carboxylic acid | ClC1=CC=C(C=C1)C=1C=C(N=NC1O[C@H](C(F)(F)F)C)C(=O)O | C14H10ClF3N2O3
reactant | 3-methoxy-5-isoxazole-methanamine hydrochloride | Cl.COC1=NOC(=C1)CN
product | (S)-5-(4-chlorophenyl)-N-((3-methoxyisoxazol-5-yl)methyl)-6-(1,1,1-trifluoropropan-2-yloxy)pyridazine-3-carboxamide | ClC1=CC=C(C=C1)C=1C=C(N=NC1O[C@H](C(F)(F)F)C)C(=O)NCC1=CC(=NO1)OC | C19H16ClF3N4O4
